US08669234B2
2,6-Diiodo-1,5-dithia-s-indacene (117 mg, 0.263 mmol), 2-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (109 mg, 0.263 mmol), Pd(PPh3)4 (9.1 mg), K2CO3 (69 mg, 0.52 mmol), were dissolved in toluene (5 mL)/water (1 mL) under an argon atmosphere. The mixture was heated for 30 minutes at 130° C. (microwave) and 30 minutes at 140° C. Removed all volatiles in vacuo and purified via silica gel chromatography (eluent: EtOAc/hexanes) to yield the product 2-(5-{6-[2-(1-Boc-pyrrolidin-2-yl)-1H-benzoimidazol-5-yl]-1,5-dithia-s-indacen-2-yl]-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (36.3 mg).

reactant | 2,6-Diiodo-1,5-dithia-s-indacene | 0.263 mmol, 117 mg | IC=1SC2=CC=3C=C(SC3C=C2C1)I | C10H4I2S2
reactant | 2-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-benzoimidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.263 mmol, 109 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C22H32BN3O4
reactant | K2CO3 | 0.52 mmol, 69 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 9.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-{6-[2-(1-Boc-pyrrolidin-2-yl)-1H-benzoimidazol-5-yl]-1,5-dithia-s-indacen-2-yl]-1H-benzoimidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 36.3 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NC2=C(N1)C=CC(=C2)C=2SC1=CC=3C=C(SC3C=C1C2)C2=CC1=C(NC(=N1)C1N(CCC1)C(=O)OC(C)(C)C)C=C2 | C42H44N6O4S2
